US09340538B2
Step A: 5-(trifluoromethyl)thiazole-2-carbonitrile
5-(trifluoromethyl)thiazol-2-amine (2.52 g, 15 mmol) was reacted with CuCN (2.7 g, 30.2 mmol) according to the procedure as described in Example 61, Step A to give the title compound as oil (1.25 g, 47%). The compound was characterized by the following spectroscopic data:

reactant | 5-(trifluoromethyl)thiazol-2-amine | 15 mmol, 2.52 g | FC(C1=CN=C(S1)N)(F)F | C4H3F3N2S
reactant | CuCN | 30.2 mmol, 2.7 g | C(#N)[Cu]
product | 5-(trifluoromethyl)thiazole-2-carbonitrile | 1.25 g, 47% | FC(C1=CN=C(S1)C#N)(F)F | C5HF3N2S
